US08349880B2
Step S (4): Iodomethane (0.179 mL, 2.88 mmol) was added to a solution of 1-(3-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea (0.772 g, 2.74 mmol) in absolute ethanol (50 mL). The resulting mixture was heated at 70° C. for 3 h. The crude reaction mixture was concentrated in vacuo. The residual solid was dried under high vacuum to afford methyl 3-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (1.15 g, 2.72 mmol, 99% yield) as a yellow solid. LC-MS (M+H)+ 296.1.

reactant | Iodomethane | 2.88 mmol, 0.179 mL | IC | CH3I
reactant | 1-(3-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea | 2.74 mmol, 0.772 g | FC=1C=C(C=C(C1N1N=C(N=C1)C)OC)NC(=S)N | C11H12FN5OS
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | methyl 3-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 2.72 mmol, 1.15 g, 99% yield | I.FC=1C=C(C=C(C1N1N=C(N=C1)C)OC)NC(=N)SC | InChI=1S/C12H14FN5OS.HI/c1-7-15-6-18(17-7)11-9(13)4-8(5-10(11)19-2)16-12(14)20-3;/h4-6H,1-3H3,(H2,14,16);1H
